US04277394
(IV) Production of Z-Tyr-(D)-Ala-Gly-Phe-NH-NH2
In 30 ml of trifluoroacetic acid is dissolved 3.5 g of Z-Tyr-(D)-Ala-Gly-Phe-NH-NH-BOC and the solution is allowed to stand at room temperature for 20 minutes. The trifluoroacetic acid is distilled offand the residue is treated with diethyl ether and collected by filtration. The resulting powders are dissolved in 10 ml of DMF and stirred with 1.4 ml of TEA. The DMF is distilled off and the residue is treated with water,collected by filtration and purified by reprecipitation with methanol-diethylether. 2.8 g (96%); m.p. 182°-184° C. (decomp.); [α]D22 -23.0° (c=0.5, DMF); Rf1 =0.17.

reactant | Z-Tyr-(D)-Ala-Gly-Phe-NH-NH-BOC | 3.5 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C36H44N6O9
solvent | trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Z-Tyr-(D)-Ala-Gly-Phe-NH-NH2 | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C31H36N6O7
